US06660744B1
A mixture of tert-butyl N-[(4-bromophenyl)(phenyl)methyl]carbamate (4.5 g, 0.0123 mol), diboron pinacol ester (3.79 g, 0.0149 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.305 g, 0.000373 mol) and potassium acetate (3.66 g, 0.0373 mol) in N,N-dimethylformamide (80 mL) was heated at 80° C. under an atmosphere of nitrogen for sixteen hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (80 mL) was added to the residue and the resulting solid was removed by filtration through a pad of celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:9) as mobile phase. The resulting fractions were concentrated, the residue was triturated in n-heptane and the precipitate collected by filtration to yield tert-butyl N-{phenyl-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}carbamate (3.0 g, 0.00733 mol) as a white solid.

reactant | tert-butyl N-[(4-bromophenyl)(phenyl)methyl]carbamate | 0.0123 mol, 4.5 g | BrC1=CC=C(C=C1)C(NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C18H20BrNO2
reactant | diboron pinacol ester | 0.0149 mol, 3.79 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.000373 mol, 0.305 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0373 mol, 3.66 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | tert-butyl N-{phenyl-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}carbamate | 0.00733 mol, 3.0 g | C1(=CC=CC=C1)C(NC(OC(C)(C)C)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H32BNO4
